US04720506
10 g of ethyl 4-aminophenylacetate was dissolved in 120 ml of benzene and to this was further added 25 ml of water. To this solution were added dropwise a solution of 8.6 g of p-toluoyl chloride dissolved in 20 ml of benzene and a solution of 2.4 g of 93% NaOH dissolved in 25 ml of water simultaneously under stirring over 15 minutes. After completion of the dropwise addition, the solution was stirred for 3 hours and allowed to stand overnight. After adding 200 ml of ethyl acetate, the oil layer was separated, washed with 1N-HCl solution and with a saturated solution of sodium chloride, and dried over anhydrous sodium sulfate. After distilling off the solvent, the residue was recrystallized from benzene-n-hexane to give 12 g of ethyl 4-(4-methylbenzoylamino)phenylacetate.

reactant | ethyl 4-aminophenylacetate | 10 g | NC1=CC=C(C=C1)CC(=O)OCC | C10H13NO2
reactant | p-toluoyl chloride | 8.6 g | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
reactant | NaOH | 2.4 g | [OH-].[Na+]
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | benzene | 120 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | water | 25 ml | O | H2O
solvent | water | 25 ml | O | H2O
product | ethyl 4-(4-methylbenzoylamino)phenylacetate | 12 g | CC1=CC=C(C(=O)NC2=CC=C(C=C2)CC(=O)OCC)C=C1 | C18H19NO3
